US04997840
Methanesulphonic anhydride (1.55 g) was added to a stirred mixture of 4-hydroxy-7-trifluoromethoxy-quinoline-1-oxide (2.0 g), potassium carbonate (1.2 g) and dichloromethane (100 ml) at 0°. After stirring at 0° for a further 2.5 hours, the reaction mixture was washed with saturated aqueous sodium carbonate (60 ml) and the dichloromethane phase separated. The aqueous phase was extracted with dichloromethane (2×50 ml) and the combined dichloromethane phase and extracts were dried over magnesium sulphate. The solvent was removed by evaporation and water (100 ml) followed by saturated aqueous sodium bicarbonate (5 ml) at 10° was added. The solid was collected by filtration to give the novel compound 4-hydroxy-7-trifluoromethoxyquinol-3-yl methanesulphonate, m.p. 125°-127°.

reactant | Methanesulphonic anhydride | 1.55 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 4-hydroxy-7-trifluoromethoxy-quinoline-1-oxide | 2.0 g | OC1=CC=[N+](C2=CC(=CC=C12)OC(F)(F)F)[O-] | C10H6F3NO3
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-hydroxy-7-trifluoromethoxyquinol-3-yl methanesulphonate | CS(=O)(=O)OC=1C=NC2=CC(=CC=C2C1O)OC(F)(F)F | C11H8F3NO5S
